Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Haldol
 
Attending: ___
 
___ Complaint:
s/p cardiac arrest 
 
Major Surgical or Invasive Procedure:
chest thoracostomy tube placement
intubation 
central venous catheter placement
 
History of Present Illness:
___ with PMHx significant for schizophrenia, hypertension and 
anemia who p/w from nursing home with cardiac arrest.

Per EMS, he choked while sitting in his chair eating, found 
slumped over in chair without e/o trauma, turned blue. Found 
cyanotic without pulses. Heimelich productive of large food 
bolus. ROSC ___ s/p CPR and epi x2 and intubated w/ IO placed. 
In ___, became bradycardic transitioning to Asystole 
1330. Given Epi, further CPR, obtained ROSC. His SBP of ___, 
started on levo. 

In ED initial VS: T 34.9 HR 83 BP 111/63 RR 14 100% ra

Exam: Tube in place, some secretions suctioned, No e/o trauma or 
prolonged down time, Psoriatic plaques, 2mm minimally responsive 
pupils, Unresponsive, No spontaneous limb movements
Labs were notable for: wbc 16.1, hgb 12.4, plt 635, Na 134, K 
4.2, cr 0.3, TnT 0.47, AP 164, normal ALT/AST, INR 1.4, ABG 
___, lactate 2.6->1.3

Imaging notable for: NCCTH w/o hemorrhage, CXR w/ possible LLL 
PNA. 

EKG 88 NS NA No STTW changes concerning for ischemia

Patient was given: RIJ placed, given rocuronium 80 mg, 
norepinephrine gtt, midazolam gtt, fentanyl gtt

Consults: Post-arrest response team recommended TTM at 35 
degrees for 24 hours w/ EEG in ICU. TTM was initiated. He 
developed a CTX after the RIJ was placed that required chest 
tube placement.

VS prior to transfer: T 34.9 HR 87 BP 137/76 RR 20 99% RA 

On arrival to the MICU: Patient is intubated and sedated, chest 
tube in place.

 
Past Medical History:
Basal cell carcinoma
Schizophrenia
Anemia
Cataracts
Constipation
Hyponatremia
Tobacco abuse
Osteoporosis
Psoriasis
Actinic keratosis
Dupuytrens
Squamous cell carcinoma
Hypertension
Allergic rhinitis
 
Social History:
___
Family History:
Mother: deceased, old age
Father: prostate cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
============================
VITALS:  Reviewed in metavision.
GENERAL: Intubated and sedated
HEENT: Sclera anicteric, PERRLA, ETT in place
NECK: supple, right CVL
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Cool, well perfused, 2+ pulses, no  edema  
SKIN:  Artic sun in place
 
Pertinent Results:
LABS ON ADMISSION 
==========================
___ 06:38PM   TYPE-CENTRAL VE PO2-40* PCO2-31* PH-7.45 
TOTAL CO2-22 BASE XS-0
___ 06:38PM   LACTATE-1.5
___ 06:38PM   O2 SAT-72
___ 06:10PM   GLUCOSE-182* UREA N-13 CREAT-0.3* SODIUM-134 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-20* ANION GAP-17*
___ 06:10PM   ALT(SGPT)-14 AST(SGOT)-31 CK(CPK)-279 ALK 
PHOS-164* TOT BILI-0.6
___ 06:10PM   ALBUMIN-3.0* CALCIUM-8.5 PHOSPHATE-2.8
___ 06:10PM   NEUTS-86.9* LYMPHS-5.1* MONOS-6.7 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-14.01* AbsLymp-0.83* 
AbsMono-1.08* AbsEos-0.01* AbsBaso-0.04
___ 06:10PM   ___ PTT-29.3 ___

PERTIENT LABS 
===============
Trops 
___ 06:10PM BLOOD cTropnT-0.47*
___ 12:30AM BLOOD CK-MB-41* MB Indx-13.4* cTropnT-0.41*
___ 07:32AM BLOOD CK-MB-29* MB Indx-12.0* cTropnT-0.30*
___ 02:29PM BLOOD CK-MB-27* MB Indx-13.6* cTropnT-0.22*

MICRO
===========
BCx ___ pending 

GRAM STAIN (Final ___: 
>25 PMNs and >10 epithelial cells/100X field. 

___  MRSA SCREEN (Final ___:    No MRSA isolated.

IMAGING
==================

___ MRI Head 
Diffusion abnormalities along the cortex of both cerebral 
hemispheres predominantly in the parieto-occipital lobes are 
suggestive of early ischemic brain injury. 

___ LENIs 
1.  Limited examination, but no evidence of deep vein thrombosis 
in the right upper extremity. 
2.  Probable hematoma in the upper inner arm as described.  
Correlate with 
physical examination for chronicity, and advise clinical 
follow-up to ensure resolution over time. 

___ TTE 
The left atrial volume index is normal. Normal left ventricular 
wall thickness, cavity size, and regional/global systolic 
function (biplane LVEF = 64 %). Tissue Doppler imaging suggests 
a normal left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (?#) appear structurally 
normal with good leaflet excursion. There is no aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The estimated pulmonary artery systolic pressure is high normal. 
There is no pericardial effusion. 

 IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. No valvular 
pathology or pathologic flow identified. No pericardial 
effusion. 

___ EEG 
This is an abnormal ICU continuous video EEG monitoring study 
due to the presence of a burst suppression pattern, indicative 
of a severe ecphalopathy. By the late afternoon, overall 
amplitudes began to diminish, and more prolonged background 
attenuation was seen, with plentiful artifact. By the end of the 
recording, definitive activity of cerebral origin was not 
clearly seen. These findings are indicative of worsening of the 
severe encephalopathy, which could be related to medication 
effects, toxic/metabolic disturbances or progression of 
neurologic injury. There were no clear epileptiform discharges 
or electrographic seizures in this recording. 

___ Shoulder ___ views 
Displaced humeral head fracture corresponding to given history, 
with exact relation of fracture fragments difficult to identify 
given limited included two views. 

___ CXR 
AP portable supine view of the chest.  The endotracheal tube is 
positioned with its tip 3.8 cm above the carina.  There is a 
vague opacity in the right lower lung which could reflect a 
focus of pneumonia though attention on followup advised.  There 
is mild retrocardiac opacity likely atelectasis.  No large 
effusion or pneumothorax is seen.  The cardiomediastinal 
silhouette appears grossly unremarkable.  There is a 
dextroscoliotic curvature of the thoracic spine.  No acute bony 
abnormalities. 
  

 
Brief Hospital Course:
Mr ___ was admitted to the MICU at ___ for post-cardiac 
arrest management. He received 5 rounds of CPR prior to ROSC. 
Unfortunately, despite obtaining ROSC, he suffered a devastating 
brain injury likely ___ anoxia. This was confirmed on MRI as 
well as with consult from the neurology team. After speaking 
with his HCP, we agreed to progress to CMO. He was extubated and 
expired on ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Calcium Carbonate 500 mg PO BID 
3. Citalopram 10 mg PO DAILY 
4. Apixaban 5 mg PO BID 
5. OLANZapine 20 mg PO DAILY 
6. Divalproex (DELayed Release) 500 mg PO TID 
7. Ketoconazole Shampoo 1 Appl TP ASDIR 
8. Docusate Sodium 100 mg PO DAILY 
9. Hydrocortisone Cream 2.5% 1 Appl TP BID 

 
Discharge Medications:
Expired 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired
 
Discharge Condition:
Expired
 
Discharge Instructions:
N/A
 
Followup Instructions:
___